US08076336B2
1-(3-Cyclohexylmethoxy-5-ethoxyphenyl)ethanone
1-(3,5-Dihydroxyphenyl)ethanone (1.0 g) and ethyl bromide (0.531 ml) were dissolved at RT in DMF (20 ml), and sodium hydride (189 mg) was added. After stirring at 50° C. for 2 h, cyclohexylmethyl bromide (1.36 ml) was added, followed by further sodium hydride (315 mg). After stirring at 50° C. for another 2 h, the DMF was drawn off and the residue was taken up in EA, washed with water, dried, filtered and concentrated. The residue was purified using silica gel (80 g cartridge, n-heptane/EA gradient of 0-20% within 60 min). 378 mg of the title compound were obtained. LC-MS rt: 2.07 min [M+H]+: 277.2 (met. a)

reactant | 1-(3,5-Dihydroxyphenyl)ethanone | 1.0 g | OC=1C=C(C=C(C1)O)C(C)=O | C8H8O3
reactant | ethyl bromide | 0.531 ml | C(C)Br | C2H5Br
reactant | sodium hydride | 189 mg | [H-].[Na+]
reactant | cyclohexylmethyl bromide | 1.36 ml | C1(CCCCC1)CBr | C7H13Br
reactant | sodium hydride | 315 mg | [H-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 1-(3-Cyclohexylmethoxy-5-ethoxyphenyl)ethanone | 378 mg | C1(CCCCC1)COC=1C=C(C=C(C1)OCC)C(C)=O | C17H24O3
